US06150373
A solution of 30 mg (0.05 mmol) of 3-(2,6-dichlorophenyl)-7-anilino-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one in 5 ml of ethanol was treated with 0.02 ml of hydrazine hydrate. After 5 hours the mixture was evaporated and 10 ml of dichloromethane were added to the residue. The resulting suspension was filtered and the filtrate was evaporated. The residue was subjected to column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated and the residue was evaporated with toluene. The residue was then dissolved in 40 ml of dichloromethane, washed with 40 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to give 12 mg (50%) of 1-[3-(2-aminoethyl)phenyl]-7-anilino-3-(2,6-dichlorophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 208° C.

reactant | 3-(2,6-dichlorophenyl)-7-anilino-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.05 mmol, 30 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=CC=C1)C1=CC(=CC=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C34H24Cl2N6O3
reactant | hydrazine hydrate | 0.02 ml | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[3-(2-aminoethyl)phenyl]-7-anilino-3-(2,6-dichlorophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 12 mg, 50% | NCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=C(C=CC=C2Cl)Cl)=O | C26H22Cl2N6O
